US04112096
C. 9-Fluoro-2-(hydroxymethyl)pyrazolo[1,5-c]quinazolin5(6H)-one
2.0 g (0.0113 mole) of 5-fluoro-3-diazooxindole (part B) and 13.1 g. (0.226 mole of 20 equivalents) of 97% propargyl alcohol are refluxed under argon for 4 hours. The reaction mixture is cooled, diluted with ether (200 ml) and stirred for 15 minutes. The beige-colored precipitates are filtered off and dried in vacuo overnight. Yield: 2.3 g, mp 295°-297°, 87.5% crude yield. The crude product is taken up in absolute ethanol (500 ml), treated with activated carbon, filtered through a Celite pad; the pad is washed with 50 ml of hot ethanol. The clear filtrate is concentrated down to a volume of 100 ml and cooled. The white precipitates are filtered off and dried in vacuo at 60° to yield the product (title compound) 1.16 g, mp 303°-304°.

reactant | 5-fluoro-3-diazooxindole | 0.0113 mole, 2.0 g | FC=1C=C2C(C(NC2=CC1)=O)=[N+]=[N-] | C8H4FN3O
reactant | propargyl alcohol | 0.226 mole, 20 equivalents | C(C#C)O | C3H4O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 9-Fluoro-2-(hydroxymethyl)pyrazolo[1,5-c]quinazolin5(6H)-one | FC1=CC=2C=3N(C(NC2C=C1)=O)N=C(C3)CO | C11H8FN3O2
